US06235731B1
4) Synthesis of N-[2-(4-(3-phenylpropan-1-yl)piperazin-1-yl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Trihydrochloride
To a solution of 1.15 g (2.57 mM) of N-[2-(4-(3-phenylpropan-1-yl)piperazin-1-yl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (10 ml) was added 4 ml (16 mM) of 4N-HCl/methanol at room temperature and the mixture was stirred at room temperature for several minutes. The solvent was then distilled off under reduced pressure and diethyl ether was added to the residue. The resulting crystals were collected by filtration and rinsed with ethanol and diethyl ether to provide the title compound.

reactant | N-[2-(4-(3-phenylpropan-1-yl)piperazin-1-yl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 2.57 mM, 1.15 g | C1(=CC=CC=C1)CCCN1CCN(CC1)CCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H29N5OS
reactant | HCl methanol | Cl.CO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[2-(4-(3-phenylpropan-1-yl)piperazin-1-yl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Trihydrochloride | Cl.Cl.Cl.C1(=CC=CC=C1)CCCN1CCN(CC1)CCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C25H29N5OS.3ClH/c31-25(22-18-21-19-27-23-9-4-10-24(32-22)30(21)23)26-11-13-29-16-14-28(15-17-29)12-5-8-20-6-2-1-3-7-20;;;/h1-4,6-7,9-10,18-19H,5,8,11-17H2,(H,26,31);3*1H
